US06538016B2
To Z-(S)-2-amino-N-(2-{4-[3-(4-chloro-phenyl)-allyloxy]-3-methoxy-phenyl}-ethyl)-3-methyl-butyramide (1.7 g), and triethylamine (1 g) in dioxane (30 ml) is added ethane sulfochloride (0.52 g). The mixture is stirred at room temperature for 16 hours. Brine (200 ml) is added. It is extracted with ethyl acetate (2×200 ml). The organic layers are washed with brine (100 ml) dried and evaporated. The residue is purified by flash column chromatography on silica gel (ethyl acetate/hexane 1:1) and recrystallised. Z-(S)-N-(2-{4-[3-(4-Chloro-phenyl)-allyloxy]-3-methoxy-phenyl}-ethyl)-2-ethanesulfonylamino-3-methyl-butyramide is obtained, m.p. 141-143° C.

reactant | Z-(S)-2-amino-N-(2-{4-[3-(4-chloro-phenyl)-allyloxy]-3-methoxy-phenyl}-ethyl)-3-methyl-butyramide | 1.7 g | N[C@H](C(=O)NCCC1=CC(=C(C=C1)OC\C=C/C1=CC=C(C=C1)Cl)OC)C(C)C | C23H29ClN2O3
reactant | triethylamine | 1 g | C(C)N(CC)CC | C6H15N
reactant | ethane sulfochloride | 0.52 g | S(=O)(=O)(O)Cl.CC
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | Brine | 200 ml | [Cl-].[Na+].O
product | Z-(S)-N-(2-{4-[3-(4-Chloro-phenyl)-allyloxy]-3-methoxy-phenyl}-ethyl)-2-ethanesulfonylamino-3-methyl-butyramide | ClC1=CC=C(C=C1)\C=C/COC1=C(C=C(C=C1)CCNC([C@H](C(C)C)NS(=O)(=O)CC)=O)OC | C25H33ClN2O5S
